* C:\Users\linca\Desktop\SUPER Lab\IMSSDC2024\SPICE\phi_2\phi_2_50MHz_EPC2214.asc
VDC1 12V 0 12
C1 0 N006 {Cmr}
L1 12V DRAIN {Lf} Rser={ESR}
L2 DRAIN N006 {Lmr} Rser={ESR}
C2 DRAIN 0 {Cp}
V1 G1 0 PULSE(0 6 0 1n 1n {D/f} {1/f})
V2 N001 0 AC 1
C3 N003 DRAIN 3n
R1 N001 N002 1m
V4 P001 0 25
R2 tc P001 10
XU1 G1 DRAIN 0 EPC2214
RL OUT 0 50
L3 N003 N004 {LS1} Rser={ESR}
L4 N004 N005 {LS}
C4 N005 0 {CM1}
L5 N005 OUT {LL} Rser={ESR}
.param f=50Meg D=0.33 ESR=0.2
.param LS1=17n
.tran 0 {500/f} {496/f}
.lib EPCGaNLibrary.lib
* .ac dec 3000 10MEG 300MEG
.meas TRAN Pin AVG I(L1)*V(12V)
.meas TRAN Pout AVG I(RL)*V(OUT)
.meas TRAN PG AVG -V(G1)*I(V1)
.meas TRAN EFFICIENCY PARAM POUT/(PIN+PG)
.param LS = 111.4n CM1=116p LL=258.6n
.param Lf=20n Lmr=18n Cmr=140p Cp=28p
.lib EPCGanlibrary.lib
.backanno
.end
