* C:\Users\linca\Desktop\SUPER Lab\IMSSDC2024\SPICE\phi_2\phi_2_50MHz_EPC2214.asc
VDC1 12V 0 12
C1 0 N012 {Cmr}
L1 12V DRAIN {Lf} Rser={ESR}
L2 DRAIN N012 {Lmr} Rser={ESR}
C2 DRAIN 0 {Cp}
V1 G1 0 PULSE(0 6 0 0.5n 0.5n {D/f} {1/f})
C3 N009 DRAIN 3.5n
XU1 G1 DRAIN 0 EPC2214
RL OUT 0 50
L3 N009 N010 {LS1} Rser={ESR}
L4 N010 N011 {LS}
C4 N011 0 {CM1}
L5 N011 OUT {LL} Rser={ESR}
RL1 N005 0 50
L6 N003 N004 {LS}
C5 N004 0 {CM1}
L7 N004 N005 {LL} Rser={ESR}
I1 0 N003 AC 1
L8 N001 N002 {LS}
C6 N002 0 {CM2}
L9 N002 zout {LL1} Rser={ESR}
I2 0 zout AC 1
L10 N006 N007 {LS}
C7 N007 0 {CM1}
L11 N007 N008 {LL} Rser={ESR}
I3 0 N006 AC 1
R1 N008 0 50
.param f=50Meg D=0.33 ESR=0.2
.param LS1=17n
.tran 0 {500/f} {496/f}
.lib EPCGaNLibrary.lib
* .ac dec 100k 10MEG 100MEG
.meas TRAN Pin AVG I(L1)*V(12V)
.meas TRAN Pout AVG I(RL)*V(OUT)
.meas TRAN PG AVG -V(G1)*I(V1)
.meas TRAN EFFICIENCY PARAM POUT/(PIN+PG)
.param CM1=181p LS=63.7n LL=133.16n
.param Lf=25n Lmr=21.1n Cmr=120p Cp=50p
.param CM2 = 159p LL1 = 1/({CM2}*(2*PI*38.13Meg)**2)
.lib EPCGanlibrary.lib
.backanno
.end
